US06492394B1
N-Tert-butoxycarbonyl-D-valine (70 g, 0.32 mol) and cesium carbonate (200.2 g, 0.615 mol) were stirred in dry dimethylformamide (550 mL). Benzyl bromide (40.32 mL, 0.336 mol) was added and the reaction mixture was stirred overnight. The material was concentrated on the roto-evaporator and the residue was dissolved in methylene chloride (200 mL) and the methylene chloride layer was washed with water and brine, dried over magnesium sulfate and concentrated to give N-tert-butoxycarbonyl-D-valine benzyl ester (97 g) as a viscous oil.

reactant | N-Tert-butoxycarbonyl-D-valine | 0.32 mol, 70 g | C(C)(C)(C)OC(=O)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | cesium carbonate | 0.615 mol, 200.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Benzyl bromide | 0.336 mol, 40.32 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 550 mL | CN(C=O)C | C3H7NO
product | N-tert-butoxycarbonyl-D-valine benzyl ester | 97 g | C(C1=CC=CC=C1)OC([C@H](NC(=O)OC(C)(C)C)C(C)C)=O | C17H25NO4
